US06087399
A solution of 2.5 g (11 mmol) of methyl 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylate (J. Org. Chem. 17 (1976), 2918) and 1.8 g (33 mmol) of potassium hydroxide in 50 ml of methanol and 5 ml of water was allowed to stand at room temperature overnight. After distilling off the methanol in vacuo, the residue was taken up in 40 ml of water and the mixture was acidified with dilute hydrochloric acid. The precipitated product was filtered off with suction and dried in vacuo, and 2.3 g of 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid were obtained; m.p. 167-168° C.

reactant | methyl 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 11 mmol, 2.5 g | CC1(CC(C=2C=CC=C(C2C1)C(=O)OC)=O)C | C14H16O3
reactant | potassium hydroxide | 33 mmol, 1.8 g | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylic acid | 2.3 g | CC1(CC(C=2C=CC=C(C2C1)C(=O)O)=O)C | C13H14O3
